US05627215
(E)-1,14-Di-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.265 g (0.859 mmol) of (E)-1,4-bis(3-propylhexahydro-pyrimidin-1-yl)but-2-ene, 3 ml of methanol and 3.4 ml (6.8 mmol) of 2N hydrochloric acid is heated for 19 h under reflux and is then concentrated by evaporation in vacuo. Recrystallisation of the residue from methanol/water yields the title compound, m.p. >260° C. 1H-NMR (D2O): δ0.96(t,6H); 1.62-1.76(m,4H); 2.05-2.16(m,4H); 3.02(t,4H); 3.11-3.18(m,8H); 3.77(d,4H); 6.03-6.06(m,2H).

reactant | (E)-1,4-bis(3-propylhexahydro-pyrimidin-1-yl)but-2-ene | 0.859 mmol, 0.265 g | C(CC)N1CN(CCC1)C\C=C\CN1CN(CCC1)CCC | C18H36N4
reactant | hydrochloric acid | 6.8 mmol, 2N, 3.4 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | (E)-1,14-Di-propyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(CC)NCCCNC\C=C\CNCCCNCCC | InChI=1S/C16H36N4.4ClH/c1-3-9-17-13-7-15-19-11-5-6-12-20-16-8-14-18-10-4-2;;;;/h5-6,17-20H,3-4,7-16H2,1-2H3;4*1H/b6-5+;;;;
